US07977334B2
0.556 g (22.0 mmol) sodium hydride were added batchwise to a solution of 3.88 g (20.0 mmol) iodoimidazole in 30 mL 1,3-dimethyl-3,4,5,6-tetrahydro-2(1H)-pyrimidone at 5° C. with vigorous stirring. After the development of gas had ended the reaction was stirred for 1 h at 0° C. and 4.44 g (20 mmol) tert-butyl (3-chloro-1,1-dimethyl-propyl)-carbamate in 5 mL 1,3-dimethyl-3,4,5,6-tetrahydro-2(1H)-pyrimidone and 0.739 g (2.00 mmol) tetrabutylammonium iodide were added. The reaction mixture was stirred for 16 h at ambient temperature, stirred for 24 h at 80° C., cooled to ambient temperature and poured into 750 mL ice water/ethyl acetate 2:1. The phases were separated and the aqueous phase was extracted three times with 150 mL ethyl acetate. The combined organic phases were washed five times with 150 mL water, then once with 150 mL saturated, aqueous sodium chloride solution, dried over sodium sulphate and the solvent was eliminated using the rotary evaporator. The residue was purified by flash column chromatography [petroleum ether/ethyl acetate (80:20→0:100)]. 3.19 g (8.40 mmol, 42%) tert-butyl [3-(4-iodo-imidazol-1-yl)-1,1-dimethyl-propyl]-carbamate were obtained as a colourless oil.

reactant | sodium hydride | 22.0 mmol, 0.556 g | [H-].[Na+]
reactant | iodoimidazole | 20.0 mmol, 3.88 g | IC=1NC=CN1 | C3H3IN2
reactant | tert-butyl (3-chloro-1,1-dimethyl-propyl)-carbamate | 20 mmol, 4.44 g | ClCCC(C)(C)NC(OC(C)(C)C)=O | C10H20ClNO2
reactant | 1,3-dimethyl-3,4,5,6-tetrahydro-2(1H)-pyrimidone | 30 mL | CN1C(N(CCC1)C)=O | C6H12N2O
reactant | 1,3-dimethyl-3,4,5,6-tetrahydro-2(1H)-pyrimidone | 5 mL | CN1C(N(CCC1)C)=O | C6H12N2O
catalyst | tetrabutylammonium iodide | 2.00 mmol, 0.739 g | [I-].C(CCC)[N+](CCCC)(CCCC)CCCC
product | tert-butyl [3-(4-iodo-imidazol-1-yl)-1,1-dimethyl-propyl]-carbamate | 8.40 mmol, 3.19 g, 42% | IC=1N=CN(C1)CCC(C)(C)NC(OC(C)(C)C)=O | C13H22IN3O2
